US07511152B2
To a solution of 6-chloro-2-(2-fluoroethyl)-5-methoxy-2-(3-oxobutyl)indan-1-one (32 g, 102 mmol) in toluene (1000 mL) were added acetic acid (7.0 mL, 120 mmol) and pyrrolidine (10 mL, 120 mmol) and the solution was heated at 95° C. for 2 hours. After cooling to room temperature, the reaction mixture was diluted with EtOAc (1000 mL), washed with water and saturated aqueous NaHCO3, and dried over MgSO4. Filtration through a pad of silica gel and removal of the solvent under vacuum gave 6-chloro-9a-(2-fluoroethyl)-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one as a solid.

reactant | 6-chloro-2-(2-fluoroethyl)-5-methoxy-2-(3-oxobutyl)indan-1-one | 102 mmol, 32 g | ClC1=C(C=C2CC(C(C2=C1)=O)(CCC(C)=O)CCF)OC | C16H18ClFO3
reactant | acetic acid | 120 mmol, 7.0 mL | C(C)(=O)O | C2H4O2
reactant | pyrrolidine | 120 mmol, 10 mL | N1CCCC1 | C4H9N
solvent | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 1000 mL | CCOC(=O)C | C4H8O2
product | 6-chloro-9a-(2-fluoroethyl)-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | ClC=1C=C2C3=CC(CCC3(CC2=CC1OC)CCF)=O | C16H16ClFO2
